US07378420B2
C. Synthesis of (S)-1-(1-methylpiperidin-2-yl methyl) piperazine
To a solution of (S)-1-benzyl-4-[(1-methylpiperidin-2-yl) methyl] piperazine 0.87 g (3.03 mmol) in THF (40 ml) was added 10% Pd/C 0.4 g and exposed to 1 atm hydrogen overnight. The reaction mixture was filtered. The filtrate was concentrated 0.3 g of desired product in 50% yield.

reactant | (S)-1-benzyl-4-[(1-methylpiperidin-2-yl) methyl] piperazine | 3.03 mmol, 0.87 g | C(C1=CC=CC=C1)N1CCN(CC1)C[C@H]1N(CCCC1)C | C18H29N3
reactant | hydrogen | [H][H] | H2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
product | (S)-1-(1-methylpiperidin-2-yl methyl) piperazine | 50% yield | CN1[C@@H](CCCC1)CN1CCNCC1 | C11H23N3
